US06809110B2
In analogy to the procedure described in example 10 c], [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester (example 10 b]) was reacted with [rac]-3-[1,3]dioxan-2-yl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propan-1-ol in the presence of tributylphosphine and N,N,N′,N′-tetramethyl azodicarboxamide to yield 3-(4-{3-[1,3]dioxan-2-yl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-2-methyl-phenyl)-2-ethoxy-propionic acid ethyl ester as a mixture of two diastereomeric racemates as colorless oil.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)O)C)OCC)=O | C14H20O4
reactant | [rac]-3-[1,3]dioxan-2-yl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propan-1-ol | O1C(OCCC1)CCC(O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C18H20F3NO3S
reactant | tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
reactant | N,N,N′,N′-tetramethyl azodicarboxamide | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
product | 3-(4-{3-[1,3]dioxan-2-yl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-2-methyl-phenyl)-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OC(CCC1OCCCO1)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)OCC)=O | C32H38F3NO6S
